US05145865
(1) Methyl 4-[1-(4-isobutoxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate
Methyl 4-[1-(4-hydroxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate (2.00 g), isobutyl bromide (2.58 ml) and potassium carbonate (3.24 g) are dissolved and suspended in dimethylformamide (20 ml) and the mixture is heated with stirring at 80° C. for 24 hours. The solvent is distilled off under reduced pressure and water is added to the resulting residue. The resulting precipitate is collected by filtration and recrystallized from about 20% aqueous methanol to give the desired product (2.11 g}, m.p. 117.5°-118.5° C.

reactant | Methyl 4-[1-(4-hydroxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate | 2.00 g | OC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C19H19NO5
reactant | isobutyl bromide | 2.58 ml | C(C(C)C)Br | C4H9Br
reactant | potassium carbonate | 3.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[1-(4-isobutoxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate | C(C(C)C)OC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C23H27NO5
